2191-11-25 03:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2191-11-25 03:54:00 Physician Resident Progress Note
Chief Complaint: Afib/A flutter/Bandemia
   24 Hour Events:
 EKG - At [**2191-11-23**] 11:25 AM
   .
   History obtained from Medical records
   Patient unable to provide history: poor historian/dementia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2191-11-24**] 08:00 PM
   Meropenem - [**2191-11-25**] 02:08 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-11-24**] 08:41 AM
   Heparin Sodium (Prophylaxis) - [**2191-11-24**] 08:00 PM
   Metoprolol - [**2191-11-25**] 12:20 AM
   Diltiazem - [**2191-11-25**] 03:03 AM
   Other medications:
   Changes to medical and family history:
   Ms. [**Known lastname **] is an 85F with a PMH s/f dementia, atrial fibrillation, and
   chronic UTIS with resistant organisms.  She was admitted to the [**Hospital1 1**]
   on [**2191-11-18**] after an unwitnessed fall at [**Hospital **] Rehab.  Her fall was
   complicated by bilateral humeral fractures and a nasal fracture.  She
   went to the OR on [**2191-11-19**] for bilateral ORIF of both fractures and was
   transfused 3 units pRBCs.  She was transferred to TSICU on [**11-22**] for
   further management of afib with RVR.  In the TSICU the team consulted
   cardiology, who recommended diltiazem 30mg TID with a diltiazem drip-
   to be weaned as tolerated.  She tolerated this well on [**11-23**], and was
   weaned off of the drip.  She was also given two doses of 10mg IV
   furosemide on this day for pulmonary edema (in addition to her home
   dose of 80mg daily), with urine outputs as high as 300cc/hr (-700cc
   today).  Today, the team had more difficulty with her rate control and
   added metoprolol 50mg TID to her diltiazem, and she recieved a total of
   three doses of 5mg IV metoprolol for heart rates in the 160s.
   .
   Of note, on admission the patient had positive urine cultures with an
   ESBL.  Meropenem was started given her history of prior history of
   resistant organisms.  Her cultures confirmed sensitivity to this.  The
   medication was stopped on [**11-21**] given negative urine cultures x 72
   hours.  Since discontinuing the meropenam, the patient's WBC count has
   risen from 6--> 18 with 90% neutrophils and 3% bands.  She is also
   having increasing diarrhea.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-25**] 03:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.4
   HR: 119 (51 - 162) bpm
   BP: 134/62(81) {103/58(71) - 161/103(112)} mmHg
   RR: 19 (15 - 36) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 73 kg (admission): 73.2 kg
    CVP: 10 (7 - 20)mmHg
   Total In:
                                                                  1,164 mL
                                                                    146 mL
   PO:
                                                                    640 mL
   TF:
   IVF:
                                                                    524 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  1,809 mL
                                                                    505 mL
   Urine:
                                                                  1,809 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -645 mL
                                                                   -359 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask , Other
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin
   Eyes / Conjunctiva: No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , Wheezes : expiratory, Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, ecchymosis face, chest, arms
   and legs
   Neurologic: Follows simple commands, Responds to: Verbal stimuli, No(t)
   Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   486 K/uL
   9.6 g/dL
   149
   0.5 mg/dL
   28 mEq/L
   4.1 mEq/L
   15 mg/dL
   103 mEq/L
   141 mEq/L
   30.0 %
   18.8 K/uL
        [image002.jpg]
                            [**2191-11-23**]  06:38 AM
                            [**2191-11-24**]  12:41 AM
                            [**2191-11-24**]  04:30 AM
                            [**2191-11-24**]  08:00 AM
                            [**2191-11-24**]  05:09 PM
   WBC
   15.0
   18.9
   18.8
   Hct
   29.2
   28.5
   30.0
   Plt
   359
   420
   486
   Cr
   0.4
   0.5
   TropT
   0.02
   0.02
   Glucose
   110
   151
   173
   149
   Other labs: CK / CKMB / Troponin-T:63//0.02, Differential-Neuts:90.0 %,
   Band:2.0 %, Lymph:0.0 %, Mono:7.0 %, Eos:1.0 %, Ca++:8.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR [**11-24**] wet read - No significant interval changes. R IJ in
   lower SVC. Unchanged moderate left
   pleural effusion; slightly decrease in the right pleural effusion.
   Cannot
   exclude superimposed infection.
   Microbiology: Blood cultures [**2191-11-18**]: Negative
   Blood cultures [**2191-11-21**], [**2191-11-24**]: NGTD
   Urine cultures [**2191-11-18**]: POSITIVE
   _____________________________________________________
                                ESCHERICHIA COLI
                                |          PROTEUS MIRABILIS
                                |          |
   AMPICILLIN------------  =>32 R      <=2 S
   AMPICILLIN/SULBACTAM--  =>32 R      <=2 S
   CEFAZOLIN-------------  =>64 R      <=4 S
   CEFEPIME--------------       R      <=1 S
   CEFTAZIDIME-----------       R      <=1 S
   CEFTRIAXONE-----------  =>64 R      <=1 S
   CEFUROXIME------------  =>64 R      <=1 S
   CIPROFLOXACIN---------   =>4 R   <=0.25 S
   GENTAMICIN------------   <=1 S      <=1 S
   MEROPENEM-------------<=0.25 S   <=0.25 S
   NITROFURANTOIN--------  <=16 S
   PIPERACILLIN---------- =>128 R      <=4 S
   PIPERACILLIN/TAZO-----     8 S      <=4 S
   TOBRAMYCIN------------  =>16 R      <=1 S
   TRIMETHOPRIM/SULFA----  =>16 R      <=1 S
   Assessment and Plan
   Worsening aflutter likely from increased adrenergic tone from infection
   (sources include lung, urine, and possibly stool), post op stress, and
   recent diuresis.  Things overall got worse on [**11-22**] when [**Last Name (un) **] was
   stopped, and diuresis started.  Need to treat infections, and manage
   fluid status carefully.
   # Afib/Aflutter:  Likely triggered by diuresis, systemic infection and
   increased adrenergic tone.
   - load dilt and restart gtt
   - d/c metoprolol
   - seems euvolemic v so continue to monitor I/O's for now, would be
   hesistant to give more fluid given tachypnea
   - cards following, may need to be d/c'd with KOH monitor
   - no anticoagulation given fall risk
   .
   # Pulm edema/Chronic left pleural effusion: Pt tachypnea with small O2
   requirement
   - Eval CVP for respiratory variation- if + variation, hold further
   lasix, if no variation, would bolus 10mg IV x1 (responds well to this)
   - Continue meropenem, hold flagyl until stools confirmed C difficile.
   - F/u urine, blood, stool for c. diff
   .
   # Diastolic Congestive Heart Failure - On standing lasix at baseline
   but appears clinically dry right now
   - hold lasix for now
   .
   # Nasal fracture - seen by plastics who recommended dressing changes
   and surgical correction concurrent with humerus fix, however,
   risks/benefits or reduction of nose discussed with family who opt for
   non-operative management due to risk of complications
   - xeroform and DSD to forehead daily x1 week, then bacitracin [**Hospital1 **]
   .
   # UTI - Continue meropenem
   - f/u culture data
   - ID following
   .
   # Diarrhea - Pt recently on [**Last Name (un) **] and has been in NH and hospital
   - f/u stool cultures
   .
   #. Osteoporosis - Calcium and Vitamin D
   .
   #. Temporal Arteritis/Polymyalgia Rheumatica  - Continue prednisone
   .
   #. Depression w/ catatonia and confusion assoc w/ dementia - Continue
   seroquel, remeron, and cymbalta
   .
   #. Vitamin D deficiency: - gets weekly infusion, resume at rehab when
   discharged
   .
   #.  Chronic pain - Pain service following
   - Cymbalta at goal
   - will titrate seroquel to 100mg qhs
   .
   FEN: NPO for now, replete lytes prn
   .
   PPX:
   -DVT ppx with Heparin sc
   -Bowel regimen
   -Pain management with oxycodone
   .
   ACCESS: PIV's, RIJ
   .
   CODE STATUS: DNR/DNI, needs to be confirmed
   .
   EMERGENCY CONTACT: [**Name (NI) **], [**Name (NI) 411**] [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-11-23**] 05:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2191-11-26 07:27:00 Physician Resident Progress Note
Chief Complaint: Afib with RVR
   24 Hour Events:
   - steroids decreased back down to home regimen of 5 mg prednisone daily
   - IV changed to po flagyl for C. diff
   - weaned off dilt gtt, uptitrated PO dilt to 60 QID
   - Ortho recs:  WBAT in BUE
   - decreased seroquel to 50 mg qhs per geriatrics
   - 27beat run of WCT 150 bpm asymptomatic normotensive, gave add'l 40
   mEq KCl, PM lytes WNL
   - morphine 1 mg IV for L shoulder pain
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2191-11-25**] 04:00 AM
   Meropenem - [**2191-11-26**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-11-25**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2191-11-25**] 08:00 PM
   Furosemide (Lasix) - [**2191-11-25**] 08:00 PM
   Morphine Sulfate - [**2191-11-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Musculoskeletal: Joint pain, Bilateral shoulder pain
   Flowsheet Data as of  [**2191-11-26**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 107 (81 - 108) bpm
   BP: 124/50(70) {105/36(56) - 144/90(108)} mmHg
   RR: 23 (14 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.3 kg (admission): 73.2 kg
    CVP: 9 (2 - 15)mmHg
   Total In:
                                                                  2,175 mL
                                                                    352 mL
   PO:
                                                                    720 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,455 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    125 mL
   Urine:
                                                                  1,440 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    735 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy, irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   469 K/uL
   8.8 g/dL
   124 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.3 mEq/L
   14 mg/dL
   104 mEq/L
   139 mEq/L
   27.6 %
   18.3 K/uL
        [image002.jpg]
                            [**2191-11-23**]  06:38 AM
                            [**2191-11-24**]  12:41 AM
                            [**2191-11-24**]  04:30 AM
                            [**2191-11-24**]  08:00 AM
                            [**2191-11-24**]  05:09 PM
                            [**2191-11-25**]  04:21 AM
                            [**2191-11-25**]  04:34 PM
                            [**2191-11-26**]  03:16 AM
   WBC
   15.0
   18.9
   18.8
   16.0
   18.3
   Hct
   29.2
   28.5
   30.0
   28.1
   27.6
   Plt
   359
   420
   486
   461
   469
   Cr
   0.4
   0.5
   0.4
   0.5
   0.5
   TropT
   0.02
   0.02
   Glucose
   110
   151
   173
   149
   109
   115
   124
   Other labs: PT / PTT / INR:12.3/20.4/1.0, CK / CKMB /
   Troponin-T:63//0.02, Differential-Neuts:90.0 %, Band:2.0 %, Lymph:0.0
   %, Mono:7.0 %, Eos:1.0 %, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR:  Persistent large L sided effusion, moderate R sided
   effusion, cardiomegaly, overall unchanged from 2 days ago
   Microbiology: [**2191-11-18**] 6:00 am URINE     Site: CATHETER
                               **FINAL REPORT [**2191-11-21**]**
      URINE CULTURE (Final [**2191-11-21**]):
         ESCHERICHIA COLI.    >100,000 ORGANISMS/ML..
            WARNING! This isolate is an extended-spectrum beta-lactamase
            (ESBL) producer and should be considered resistant to all
            penicillins, cephalosporins, and aztreonam. Consider
   Infectious
            Disease consultation for serious infections caused by
            ESBL-producing species.
         PROTEUS MIRABILIS.    PRESUMPTIVE IDENTIFICATION.
            10,000-100,000 ORGANISMS/ML..
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ESCHERICHIA COLI
                                |          PROTEUS MIRABILIS
                                |          |
   AMPICILLIN------------  =>32 R      <=2 S
   AMPICILLIN/SULBACTAM--  =>32 R      <=2 S
   CEFAZOLIN-------------  =>64 R      <=4 S
   CEFEPIME--------------       R      <=1 S
   CEFTAZIDIME-----------       R      <=1 S
   CEFTRIAXONE-----------  =>64 R      <=1 S
   CEFUROXIME------------  =>64 R      <=1 S
   CIPROFLOXACIN---------   =>4 R   <=0.25 S
   GENTAMICIN------------   <=1 S      <=1 S
   MEROPENEM-------------<=0.25 S   <=0.25 S
   NITROFURANTOIN--------  <=16 S
   PIPERACILLIN---------- =>128 R      <=4 S
   PIPERACILLIN/TAZO-----     8 S      <=4 S
   TOBRAMYCIN------------  =>16 R      <=1 S
   TRIMETHOPRIM/SULFA----  =>16 R      <=1 S
   [**2191-11-24**] 6:53 pm URINE      Source: Catheter.
                               **FINAL REPORT [**2191-11-25**]**
      URINE CULTURE (Final [**2191-11-25**]):
         YEAST.    10,000-100,000 ORGANISMS/ML..
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 LEUKOCYTOSIS
 PULMONARY EDEMA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 DELIRIUM / CONFUSION
   85F with a PMH s/f dementia, atrial fibrillation, and chronic UTIS with
   resistant organisms who presents after fall witih bilateral humeral
   fractures and a nasal fracture.  She had worsening aflutter likely from
   increased adrenergic tone from infection (sources include UTI and C.
   diff), post op stress, and recent diuresis.
   # Afib/Aflutter:  Likely triggered by diuresis, systemic infection and
   increased adrenergic tone.
   - weaned off dilt gtt, po dilt titrated up
   - d/c'ed metoprolol
   - cards following, may need to be d/c'd with KOH monitor
   - no anticoagulation given fall risk
   # Pulm edema/Chronic left pleural effusion: Pt tachypnea with small O2
   requirement
   - volume status difficult to determine--low UOP but large pleural
   effusions, stable BP, HR difficult to interpret
   # Diastolic Congestive Heart Failure - On standing lasix at baseline.
   Though had low UOP, is +1.5 for [**Location 4982**] cont. home lasix for now
   - hold IVFs
   # Nasal fracture - seen by plastics who recommended dressing changes
   and surgical correction concurrent with humerus fix, however,
   risks/benefits or reduction of nose discussed with family who opt for
   non-operative management due to risk of complications
   - xeroform and DSD to forehead daily x1 week, then bacitracin [**Hospital1 **]
   # UTI:  Now s/p 3 days of meropenem.  Repeat UTI with only yeast.
   - Continue meropenem
   # C diff:
   - cont. Flagyl
   #. Osteoporosis - Calcium and Vitamin D
   #. Temporal Arteritis/Polymyalgia Rheumatica  - Continue prednisone at
   home dose
   #. Depression w/ catatonia and confusion assoc w/ dementia - Continue
   seroquel, remeron, and cymbalta
   #. Vitamin D deficiency: - gets weekly infusion, resume at rehab when
   discharged
   #.  Chronic pain - Pain service following
   - Cymbalta at goal
   - cont. seroquel  at 50 mg qhs
   FEN: regular diet, replete lytes prn
   PPX:
   -DVT ppx with Heparin sc
   -Bowel regimen
   -Pain management with oxycodone
   ACCESS: PIV's, RIJ
   CODE STATUS: DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-11-23**] 05:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2191-11-26 10:41:00 Physician Attending Progress Note
Chief Complaint: c diff, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - weaned off Dilt drip
   - 27 bt run of wide complex, hemodynamically stable, repleted lytes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2191-11-25**] 04:00 AM
   Meropenem - [**2191-11-26**] 02:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2191-11-25**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2191-11-26**] 08:02 AM
   Furosemide (Lasix) - [**2191-11-26**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-26**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 99 (73 - 108) bpm
   BP: 121/47(66) {104/36(56) - 144/90(97)} mmHg
   RR: 18 (13 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.3 kg (admission): 73.2 kg
   CVP: 11 (2 - 15)mmHg
   Total In:
                                                                  2,175 mL
                                                                    382 mL
   PO:
                                                                    720 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,455 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    280 mL
   Urine:
                                                                  1,440 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    735 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Gen: tachypneic, but able to converse,
   HEENT: op clear
   CV: irreg irreg
   Chest: diffuse exp wheeze
   Abd:obese soft NTs
   Ext: pitting edema
   Neuro: conversant
   Labs / Radiology
   8.8 g/dL
   469 K/uL
   124 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.3 mEq/L
   14 mg/dL
   104 mEq/L
   139 mEq/L
   27.6 %
   18.3 K/uL
        [image002.jpg]
                            [**2191-11-23**]  06:38 AM
                            [**2191-11-24**]  12:41 AM
                            [**2191-11-24**]  04:30 AM
                            [**2191-11-24**]  08:00 AM
                            [**2191-11-24**]  05:09 PM
                            [**2191-11-25**]  04:21 AM
                            [**2191-11-25**]  04:34 PM
                            [**2191-11-26**]  03:16 AM
   WBC
   15.0
   18.9
   18.8
   16.0
   18.3
   Hct
   29.2
   28.5
   30.0
   28.1
   27.6
   Plt
   359
   420
   486
   461
   469
   Cr
   0.4
   0.5
   0.4
   0.5
   0.5
   TropT
   0.02
   0.02
   Glucose
   110
   151
   173
   149
   109
   115
   124
   Other labs: PT / PTT / INR:12.3/20.4/1.0, CK / CKMB /
   Troponin-T:63//0.02, Differential-Neuts:90.0 %, Band:2.0 %, Lymph:0.0
   %, Mono:7.0 %, Eos:1.0 %, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 LEUKOCYTOSIS
 PULMONARY EDEMA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 DELIRIUM / CONFUSION
   85yo woman with a h/o dementia with amyloid angiopathy, CVA, A fib,
   chronic UTIs, diastolic CHF (EF 50% in [**6-18**]), temporal arteritis on
   chronic prednisone, depression with a h/o catatonia, vitamin D
   deficiency and other issues who had an unwitnessed fall at [**Hospital **] Rehab
   (where she lives) and was admitted to Trauma with bilateral ORIF on
   [**11-19**] now with A fib with RVR.
 PULMONARY EDEMA: This AM she is in more resp distress with diffuse
   exp wheezes, and CXR with overt volume overload. Need to get 1 liter
   negative today.
   Decrease Prednisone to 5mg q24h from the Hydrocort IV given hemodynamic
   instability.
 C diff:  positive; continue Flagyl IV for the time being with plans
   for a 2 week course.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN Prefer to use Tylenol or
   non-narcotics for pain. Monitor MS.
 DELIRIUM / CONFUSION: She has baseline dementia and is currently
   oriented x
[**2191**]
 but not to place or month. She is not sure as to why
   to why she is here. Continue home Remeron and Seroquel.
 .H/O ATRIAL FIBRILLATION (AFIB) Cardiology has been following her; we
   have increased her Dilt to QID and put her on a IV gtt. She had been on
   Metoprolol at home. Last night she was unable to take POs but is uch
   more alert today. Will attempt to decrease her Dilt gtt today as we
   increase her PO meds. Her rate is currently adequately controlled.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  Multi Lumen - [**2191-11-23**] 05:14 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer:
   Communication:  with pt and daughter
   [**Name (NI) 129**] status: DNR / DNI
   Disposition : reassess after diuresise
   Total time spent: 40

2191-11-27 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Dilt uptitrated to 90 mg QID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2191-11-26**] 02:00 AM
   Metronidazole - [**2191-11-27**] 12:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-11-26**] 08:00 PM
   Furosemide (Lasix) - [**2191-11-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-27**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.3
   HR: 89 (73 - 107) bpm
   BP: 115/49(58) {95/40(56) - 132/110(82)} mmHg
   RR: 11 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.3 kg (admission): 73.2 kg
    CVP: 9 (9 - 13)mmHg
   Total In:
                                                                    970 mL
                                                                    240 mL
   PO:
                                                                    730 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    240 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    140 mL
   Urine:
                                                                  1,660 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -690 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, eccyhomosis UEs, chest, [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) **]: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   540 K/uL
   9.0 g/dL
   114 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   15 mg/dL
   103 mEq/L
   140 mEq/L
   27.5 %
   20.6 K/uL
        [image002.jpg]
                            [**2191-11-23**]  06:38 AM
                            [**2191-11-24**]  12:41 AM
                            [**2191-11-24**]  04:30 AM
                            [**2191-11-24**]  08:00 AM
                            [**2191-11-24**]  05:09 PM
                            [**2191-11-25**]  04:21 AM
                            [**2191-11-25**]  04:34 PM
                            [**2191-11-26**]  03:16 AM
                            [**2191-11-26**]  03:15 PM
                            [**2191-11-27**]  03:40 AM
   WBC
   15.0
   18.9
   18.8
   16.0
   18.3
   20.6
   Hct
   29.2
   28.5
   30.0
   28.1
   27.6
   27.5
   Plt
   359
   420
   486
   461
   469
   540
   Cr
   0.4
   0.5
   0.4
   0.5
   0.5
   0.6
   0.5
   TropT
   0.02
   0.02
   Glucose
   110
   151
   173
   149
   109
   115
   124
   205
   114
   Other labs: PT / PTT / INR:12.3/20.4/1.0, CK / CKMB /
   Troponin-T:63//0.02, Differential-Neuts:90.0 %, Band:2.0 %, Lymph:0.0
   %, Mono:7.0 %, Eos:1.0 %, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   85F with dementia, atrial fibrillation, and chronic MDR UTI with
   resistant organisms who presents after fall with bilateral humeral
   fractures and a nasal fracture.  Admitted to MICU for rapid
   afib/flutter and volume acute on chronic diastolic CHF.
   # Afib/Aflutter
 possible precipitants include decompensated CHF,
   systemic infection, increased adrenergic tone from surgery
   -uptitrate PO dilt to goal HR 65-70
   -aspirin
   -fall risk likely makes risks>benefits for systemic anticoagulation
   # UTI MDR E. Coli & pan-[**Last Name (un) 206**] proteus on UCx but may represent
   colonization given prior history and underwhelming UTI
   -d/c meropenem
   # C dificile colitis
   - cont. flagyl x 2 weeks
   #Acute on chronic diastolic CHF
 Increased work of breathing with
   elevated CVP suggests inadequate diuresis
   -cont. current lasix dose with lasix 40 mg IV x 1
   -goal UOP 1-1.5L neg x 24 hrs
   -check mixed venous O2 to better characterize volume status given low
   UOP
   # Nasal fracture - seen by plastics who recommended dressing changes
   and surgical correction concurrent with humerus fix, however,
   risks/benefits or reduction of nose discussed with family who opt for
   non-operative management due to risk of complications
   - xeroform and DSD to forehead daily x1 week, then bacitracin [**Hospital1 **]
   #. Osteoporosis - Calcium and Vitamin D
   #. Temporal Arteritis/Polymyalgia Rheumatica  - Continue prednisone at
   home dose
   #. Depression w/ catatonia and confusion assoc w/ dementia - Continue
   seroquel, remeron, and cymbalta
   #. Vitamin D deficiency: - gets weekly infusion, resume at rehab when
   discharged
   #.  Chronic pain - Pain service following
   - cont cymbalta, seroquel
   FEN: regular diet, replete lytes prn
   PPX:
   -DVT ppx with Heparin sc
   -Bowel regimen
   -Pain management with oxycodone
   ACCESS: PIV's, RIJ
   CODE STATUS: DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-11-23**] 05:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2191-11-27 10:39:00 Physician Attending Progress Note
Chief Complaint: s/p fall, rapid afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Uptitrated Dilt
   Resp status better with diuresis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2191-11-26**] 02:00 AM
   Metronidazole - [**2191-11-27**] 08:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-11-26**] 08:00 PM
   Furosemide (Lasix) - [**2191-11-26**] 08:00 PM
   Other medications:
   Cymbalta, Acetominphen, SSRI, lasix, predisone 5, CaCarb, prilosec,
   Seroquek, Dilt 90 QID
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-27**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 89 (35 - 112) bpm
   BP: 124/55(73) {95/40(56) - 132/110(82)} mmHg
   RR: 15 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.3 kg (admission): 73.2 kg
   CVP: 9 (9 - 11)mmHg
   Total In:
                                                                    970 mL
                                                                    240 mL
   PO:
                                                                    730 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    240 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    495 mL
   Urine:
                                                                  1,660 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -690 mL
                                                                   -255 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Gen: alert, NAD
   HEENT: op clear
   CV: irreg irreg
   Chest: bibasliar rales
   Abd:obese soft mild tenderness to palp in BLQ
   Ext: pitting edema
   Neuro: conversant
   Labs / Radiology
   9.0 g/dL
   540 K/uL
   114 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   15 mg/dL
   103 mEq/L
   140 mEq/L
   27.5 %
   20.6 K/uL
        [image002.jpg]
                            [**2191-11-23**]  06:38 AM
                            [**2191-11-24**]  12:41 AM
                            [**2191-11-24**]  04:30 AM
                            [**2191-11-24**]  08:00 AM
                            [**2191-11-24**]  05:09 PM
                            [**2191-11-25**]  04:21 AM
                            [**2191-11-25**]  04:34 PM
                            [**2191-11-26**]  03:16 AM
                            [**2191-11-26**]  03:15 PM
                            [**2191-11-27**]  03:40 AM
   WBC
   15.0
   18.9
   18.8
   16.0
   18.3
   20.6
   Hct
   29.2
   28.5
   30.0
   28.1
   27.6
   27.5
   Plt
   359
   420
   486
   461
   469
   540
   Cr
   0.4
   0.5
   0.4
   0.5
   0.5
   0.6
   0.5
   TropT
   0.02
   0.02
   Glucose
   110
   151
   173
   149
   109
   115
   124
   205
   114
   Other labs: PT / PTT / INR:12.3/20.4/1.0, CK / CKMB /
   Troponin-T:63//0.02, Differential-Neuts:90.0 %, Band:2.0 %, Lymph:0.0
   %, Mono:7.0 %, Eos:1.0 %, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 LEUKOCYTOSIS
 PULMONARY EDEMA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 DELIRIUM / CONFUSION
   85yo woman with a h/o dementia with amyloid angiopathy, CVA, A fib,
   chronic UTIs, diastolic CHF (EF 50% in [**6-18**]), temporal arteritis on
   chronic prednisone, depression with a h/o catatonia, vitamin D
   deficiency and other issues who had an unwitnessed fall at [**Hospital **] Rehab
   (where she lives) and was admitted to Trauma with bilateral ORIF on
   [**11-19**] now with A fib with RVR.
 PULMONARY EDEMA: This AM she is in less resp distress after diuresis.
   Try for another 500 cc neg today. Give additional Lasix as needed. Rate
   control.
 C diff:  positive- continue Flagyl IV for the time being with plans
   for a 2 week course. Stop completely with BM x 24 hrs
 and WBC rising
   a bit . Check KUB for dilation.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN Prefer to use Tylenol or
   non-narcotics for pain. Monitor MS.
 DELIRIUM / CONFUSION: She has baseline dementia and is easily
   redirected. Appears more oriented with daughter. Continue home Remeron
   and Seroquel.
 .H/O ATRIAL FIBRILLATION (AFIB) Cardiology has been following her; we
   have increased her Dilt. Po and stopped the drip. Her rate is currently
   adequately controlled, did have a burst of like afib with abberancy and
   then brady with a vagal episode. Would rediscuss with Cards rate issues
   and any role for pacer.
   ICU Care
   Nutrition: po diet,
   Glycemic Control: sliding scale
   Lines:
   Multi Lumen - [**2191-11-23**] 05:14 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   Communication:  with dtr at bedside
   Code status: DNR / DNI
   Disposition : call out to geriMed but to a telemetry floor